US06323217B2
Step A: Tert-butyl 1-[2-(benzofuran-3-yl)ethyl]-4-piperidylcarbamate
13 ml of acetic acid and 61 g of sodium triacetoxyborohydride are added in succession to a solution of 33 g of 2-(benzofuran-3-yl)acetaldehyde and 41.3 g of tert-butyl 4-piperidylcarbamate in 1.4 litres of dichloromethane. After 24 hours' stirring at room temperature, a 20% sodium hydroxide solution is added. After 10 minutes, the reaction mixture is decanted and the organic phase is washed, dried and concentrated. Chromatography over silica gel (cyclohexane/ethyl acetate 30/70) enables the expected product to be isolated.

reactant | sodium triacetoxyborohydride | 61 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2-(benzofuran-3-yl)acetaldehyde | 33 g | O1C=C(C2=C1C=CC=C2)CC=O | C10H8O2
reactant | tert-butyl 4-piperidylcarbamate | 41.3 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 1.4 litres | ClCCl | CH2Cl2
solvent | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
product | Tert-butyl 1-[2-(benzofuran-3-yl)ethyl]-4-piperidylcarbamate | O1C=C(C2=C1C=CC=C2)CCN2CCC(CC2)NC(OC(C)(C)C)=O | C20H28N2O3
